US05384330
2-Amino-4-(3,5-dichlorobenzylamino)-1-propyloxycarbonylamino benzene
A suspension of 15.5 g (50 mmol) 2-amino-5-(3,5-dichlorobenzylamino)-nitrobenzene is hydrogenated in a manner analogous with Example 1 (variant A) and worked up appropriately with 6.2 g (51 mmol) propyl chloroformate. 10.8 g of the end product are obtained in the form of the dihydrochloride. This forms colorless to pale pink crystals.

reactant | 2-amino-5-(3,5-dichlorobenzylamino)-nitrobenzene | 50 mmol, 15.5 g | NC1=C(C=C(C=C1)NCC1=CC(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C13H11Cl2N3O2
reactant | propyl chloroformate | 51 mmol, 6.2 g | ClC(=O)OCCC | C4H7ClO2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2-Amino-4-(3,5-dichlorobenzylamino)-1-propyloxycarbonylamino benzene | 10.8 g | NC1=C(C=CC(=C1)NCC1=CC(=CC(=C1)Cl)Cl)NC(=O)OCCC | C17H19Cl2N3O2
